US06313122B1
A. N-(2-Hydroxyphenyl)-4-methoxybenzamide
A solution of N-[2-(4-methoxybenzoyloxy)phenyl]-4-methoxybenzamide (3.0 g, 8.0 mmol) in methanol (50 mL) was treated with 5 N aqueous sodium hydroxide (4.78 mL) at room temperature for 16 h. The solution was concentrated to one-half volume in vacuo, 5 N aqueous sodium hydroxide was added, and the resulting mixture stirred for an additional 16 h. The mixture was concentrated in vacuo and acidified with dilute hydrochloric acid. The resulting precipitate was collected by filtration, dissolved in ethyl acetate, and extracted with saturated aqueous potassium carbonate solution. The aquous layer was acidified with dilute hydrochloric acid and extrated with ethyl acetate. The organic layer was dried (magnesium sulfate), filtered, and concentrated in vacuo to provide 1.75 g (90%) the title product as a crystalline solid.

reactant | N-[2-(4-methoxybenzoyloxy)phenyl]-4-methoxybenzamide | 8.0 mmol, 3.0 g | COC1=CC=C(C(=O)OC2=C(C=CC=C2)NC(C2=CC=C(C=C2)OC)=O)C=C1 | C22H19NO5
reactant | sodium hydroxide | 5 N, 4.78 mL | [OH-].[Na+]
solvent | methanol | 50 mL | CO | CH4O
product | N-(2-Hydroxyphenyl)-4-methoxybenzamide | 1.75 g, 90% | OC1=C(C=CC=C1)NC(C1=CC=C(C=C1)OC)=O | C14H13NO3
